US08039450B2
Coupling reaction of 6-chloronicotinaldehyde (5.4 g, 38.15 mmol) and 4-bromo-3-(hydroxymethyl)phenol (8.15 g, 38.15 mmol) in the presence of K2CO3 (8.5 g, 1.5 eq) in DMF (100 mL) for 2 h at 100° C. under N2 gave the desired 6-(4-bromo-3-(hydroxymethyl)phenoxy)nicotinaldehyde (8.03 g, 26.1 mmol, yield 68.3%) as a white solid after silica gel column purification (hexane:EtOAc=3:1, v/v).

reactant | 6-chloronicotinaldehyde | 38.15 mmol, 5.4 g | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | 4-bromo-3-(hydroxymethyl)phenol | 38.15 mmol, 8.15 g | BrC1=C(C=C(C=C1)O)CO | C7H7BrO2
reactant | K2CO3 | 8.5 g, 1.5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-(4-bromo-3-(hydroxymethyl)phenoxy)nicotinaldehyde | 26.1 mmol, 8.03 g, yield 68.3% | BrC1=C(C=C(OC2=NC=C(C=O)C=C2)C=C1)CO | C13H10BrNO3
